US05750213
First, 3.4 g of 2,2-bis(6-benzyloxyhexyl)acetic acid, 3.3 g of 2,3-difluoro-4'-[16-hydroxyhexadecyl]oxybiphenyl, 2.3 g of triphenylphosphine, and 50 ml of tetrahyrofuran were placed in a 100 ml flask. Then, 1.5 g of diethyl azodicarboxylate was added dropwise to the reaction mixture at 5° C. Thereafter, the reaction mixture was allowed to warm to room temperature and stirred for 8 hours. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/9) to obtain 5.9 g of 16-[2,3-difluorobiphenyl-4'-yl]oxyhexadecyl 2,2-bis(6-benzyloxyhexyl)acetate (Y: 92.1%). The compound thus obtained had a purity of 98.3% by HPLC.

reactant | 2,2-bis(6-benzyloxyhexyl)acetic acid | 3.4 g | C(C1=CC=CC=C1)OCCCCCCC(C(=O)O)CCCCCCOCC1=CC=CC=C1 | C28H40O4
reactant | 2,3-difluoro-4'-[16-hydroxyhexadecyl]oxybiphenyl | 3.3 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCO | C28H40F2O2
reactant | triphenylphosphine | 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.5 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahyrofuran | 50 ml | O1CCCC1 | C4H8O
product | 16-[2,3-difluorobiphenyl-4'-yl]oxyhexadecyl 2,2-bis(6-benzyloxyhexyl)acetate | 5.9 g, 92.1% | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCCCCCCCCCCCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCOCC1=CC=CC=C1 | C56H78F2O5
